US06664293B2
To a solution of 1-tert-butoxycarbonylamino-4-methylcyclohex-3-ene (0.18 g) in a mixture of anisole (0.18 ml) and dichloromethane (0.36 ml) was added trifluoroacetic acid (0.54 ml) at 0° C. and the mixture was allowed to stir at 0° C. for 1 hour. Evaporation gave a residue, which was taken up into 1,2-dichloroethane (5 ml). To the mixture were added triethylamine (0.6 ml) and 4-phenoxycarbonylaminopyridine (0.183 g), and the resultant mixture was heated to 75° C. for 6 hours. Evaporation gave a residue, which was chromatographed on silica gel (50 ml) eluting with 7% methanol in dichloromethane, and taken up into a solution of hydrogen chloride in ethyl acetate (4N, 2 ml). Evaporation under reduced pressure and trituration with diisopropyl ether gave N-(4-methylcyclohex-3-en-1-yl)-N′-(pyridin-4-yl)urea hydrochloride (0.144 g).

reactant | 1-tert-butoxycarbonylamino-4-methylcyclohex-3-ene | 0.18 g | C(C)(C)(C)OC(=O)NC1CC=C(CC1)C | C12H21NO2
reactant | trifluoroacetic acid | 0.54 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
reactant | 4-phenoxycarbonylaminopyridine | 0.183 g | O(C1=CC=CC=C1)C(=O)NC1=CC=NC=C1 | C12H10N2O2
solvent | anisole | 0.18 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 0.36 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
product | N-(4-methylcyclohex-3-en-1-yl)-N′-(pyridin-4-yl)urea hydrochloride | 0.144 g | Cl.CC1=CCC(CC1)NC(=O)NC1=CC=NC=C1 | InChI=1S/C13H17N3O.ClH/c1-10-2-4-11(5-3-10)15-13(17)16-12-6-8-14-9-7-12;/h2,6-9,11H,3-5H2,1H3,(H2,14,15,16,17);1H
